US05741892
Synthesis of t-butyl-(3R,4S)-4-(N-methylamino)-3-methoxy-5-methylhexanoate
To a solution of t-butyl-(3R,4S)-4-(N-benzyloxycarbonyl-N-methylamino)-3-methoxy-5-methylhexanoate (3.855 g, 10.17 mmol) in 100 ml methanol was added 10% Pd/C (0.541 g) and the mixture was hydrogenated until completion of the deprotection (tlc control). The catalyst was removed by filtration and the filtrate concentrated in vacuo. The resulting amorphous solid (2.49 g) can be crystallized from ether by adding a solution of HCl in dioxane.

reactant | t-butyl-(3R,4S)-4-(N-benzyloxycarbonyl-N-methylamino)-3-methoxy-5-methylhexanoate | 10.17 mmol, 3.855 g | C(C)(C)(C)OC(C[C@H]([C@H](C(C)C)N(C)C(=O)OCC1=CC=CC=C1)OC)=O | C21H33NO5
solvent | methanol | 100 ml | CO | CH4O
catalyst | Pd/C | 0.541 g | [Pd] | Pd
product | t-butyl-(3R,4S)-4-(N-methylamino)-3-methoxy-5-methylhexanoate | C(C)(C)(C)OC(C[C@H]([C@H](C(C)C)NC)OC)=O | C13H27NO3
